US06355702B1
Synthesis of 2,5-Dimethyl-2,5-Hexanediol Diacrylate
Synthesis was carried out as in Example I except that 14.5 g (0.5 mol) 2,5-dimethyl-2,5-hexanediol (purchased from Aldrich) was substituted for the 2,7-dimethyl-2,7-octane diol.

reactant | 2,5-dimethyl-2,5-hexanediol | 0.5 mol, 14.5 g | CC(C)(CCC(C)(O)C)O | C8H18O2
reactant | 2,7-dimethyl-2,7-octane diol | CC(C)(CCCCC(C)(O)C)O | C10H22O2
product | 2,5-Dimethyl-2,5-Hexanediol Diacrylate | C(C=C)(=O)OC(C)(CCC(C)(OC(C=C)=O)C)C | C14H22O4
